US06762320B2
2-Acetylamino-N-[2-fluoro-4-(4-fluoro-benzyloxy)-phenyl]-acetamide
A solution of 2-amino-N-[2-fluoro-4-(4-fluoro-benzyloxy)-phenyl]-acetamide (1:1) hydrochloride (50 mg, 0.15 mmol), acetyl chloride (14.4 mg, 0.18 mmol), triethylamine (31 mg, 0.30 mmol) was stirred at 0° C. for 4 h. Then the mixture was diluted with water and the mixture extracted with DCM. The organic layer was then washed with brine, dried, filtered and evaporated to leave the title compound (50 mg, 99%) as a white solid. MS: m/e=335.2 (M++H).

reactant | 2-amino-N-[2-fluoro-4-(4-fluoro-benzyloxy)-phenyl]-acetamide | NCC(=O)NC1=C(C=C(C=C1)OCC1=CC=C(C=C1)F)F | C15H14F2N2O2
reactant | hydrochloride | 0.15 mmol, 50 mg | Cl | ClH
reactant | acetyl chloride | 0.18 mmol, 14.4 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.30 mmol, 31 mg | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-Acetylamino-N-[2-fluoro-4-(4-fluoro-benzyloxy)-phenyl]-acetamide | 50 mg, 99% | C(C)(=O)NCC(=O)NC1=C(C=C(C=C1)OCC1=CC=C(C=C1)F)F | C17H16F2N2O3
